US05236952
2.5 g of 3,4-dimethoxy-5-nitrobenzhydrol dissolved in 50 ml of methylene chloride are treated with 2.2 g of pyridinium chlorochromate, whereupon the mixture is stirred at room temperature for 2hours. The insoluble constituents are subsequently filtered. The filtrate is evaporated and the residue is chromatographed on 60 g of silica gel with ethylene chloride. After crystallization from methylene chloride/hexane there is obtained 3,4-dimethoxy-5-nitrobenzophenone of m.p. 78°-80°.

reactant | 3,4-dimethoxy-5-nitrobenzhydrol | 2.5 g | COC=1C=C(C(C2=CC=CC=C2)O)C=C(C1OC)[N+](=O)[O-] | C15H15NO5
reactant | pyridinium chlorochromate | 2.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,4-dimethoxy-5-nitrobenzophenone | COC=1C=C(C(=O)C2=CC=CC=C2)C=C(C1OC)[N+](=O)[O-] | C15H13NO5
